US04734416
1.0 Gram of 4-methyl-7-[3-(4-phenylpiperazinyl)propoxy]carbostyril dihydrochloride and 0.3 g of palladium black are dispersed in 200 ml of ethanol under 2 atmospheres of hydrogen pressure at room temperature and catalytic reduction is carried out at 70°-80° C. for 8 hours. After cooling the reaction mixture, the palladium black is removed by filtration and the mother liquor is concentrated to dryness. The residue is recrystallized from a mixture of methanol-ether to obtain 0.6 g (yield: 60%) of 4-methyl-7-[3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril.dihydrochloride.dihydrate in the form of colorless crystals with a melting point of 260°-265° C.

reactant | 4-methyl-7-[3-(4-phenylpiperazinyl)propoxy]carbostyril dihydrochloride | Cl.Cl.CC1=CC(NC2=CC(=CC=C12)OCCCN1CCN(CC1)C1=CC=CC=C1)=O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium black | 0.3 g | [Pd] | Pd
product | 4-methyl-7-[3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril.dihydrochloride | 0.6 g, yield: 60% | Cl.Cl.CC1CC(NC2=CC(=CC=C12)OCCCN1CCN(CC1)C1=CC=CC=C1)=O | InChI=1S/C23H29N3O2.2ClH/c1-18-16-23(27)24-22-17-20(8-9-21(18)22)28-15-5-10-25-11-13-26(14-12-25)19-6-3-2-4-7-19;;/h2-4,6-9,17-18H,5,10-16H2,1H3,(H,24,27);2*1H
